US04000153
In the manner given in Example 6, 2',5-dichloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone is warmed with thionylchloride to give 2',5-dichloro-2-[3-(chloromethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone of melting point 127°-130° C.

reactant | 2',5-dichloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1C)CO)=O | C17H13Cl2N3O2
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
product | 2',5-dichloro-2-[3-(chloromethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1C)CCl)=O | C17H12Cl3N3O
